US05180418
A mixture of 4.4 g of 1-(5-amino-2-chloro-4-fluorophenylthio)-cyclobutanecarboxylic acid methyl ester and 2.4 g of 3,4,5,6-tetrahydrophthalic anhydride in 60 ml of glacial acetic acid is heated under reflux for 5 hours while stirring. The reaction mixture is then introduced into ice-water and the resulting glutinous product is extracted with ethyl acetate. After drying the organic phase over sodium sulfate and concentrating by evaporation in vacuo, petroleum ether is added to the resulting residue and the substance solidifies. Filtering yields 4 g of 1-[2-chloro-4-fluoro-5-(1,2,3,4,5,6-hexahydro-1,3-dioxo-isoindolyl)-phenylthio]-cyclobutanecarboxylic acid methyl ester having a melting point of +98° C.

reactant | 1-(5-amino-2-chloro-4-fluorophenylthio)-cyclobutanecarboxylic acid methyl ester | 4.4 g | COC(=O)C1(CCC1)SC1=C(C=C(C(=C1)N)F)Cl | C12H13ClFNO2S
reactant | 3,4,5,6-tetrahydrophthalic anhydride | 2.4 g | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 1-[2-chloro-4-fluoro-5-(1,2,3,4,5,6-hexahydro-1,3-dioxo-isoindolyl)-phenylthio]-cyclobutanecarboxylic acid methyl ester | 4 g | COC(=O)C1(CCC1)SC1=C(C=C(C(=C1)N1C(C2=CCCCC2C1=O)=O)F)Cl | C20H19ClFNO4S
